US05807859
A stirred suspension of 0.6 g of (10-methyl-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-10-yl)butyric acid in 20 ml of dioxane is cooled to a temperature in the region of 10° C., under an argon atmosphere, and 0.19 ml of oxalyl chloride is added. A solution of 0.5 ml of dimethylformamide in 5 ml of dioxane is then added dropwise. After the addition, the mixture is left stirring for 4 hours at a temperature in the region of 20° C. A further 0.38 ml of oxalyl chloride and 6 ml of dimethylformamide are added dropwise and stirring is continued for 1 hour. A solution of 0.38 g of sodium tetraborohydride in 10 ml of dimethylformamide is then added dropwise and the stirring is continued overnight. The reaction mixture is treated with 10 ml of methanol, acidified to pH 1 with 1N hydrochloric acid and concentrated on a rotary evaporator. The evaporation residue is purified by chromatography on a column of silica (100 g) eluting, under a pressure of 0.5 bar, first with a dichloromethane/methanol mixture (95/5 by volume) and then with a dichloromethane/methanol/28% aqueous ammonia mixture (90/10/0.5 by volume). 70 mg of 10-(4-hydroxybutyl)-10-methyl-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one are obtained in the form of a white solid (1H NMR spectrum [300 MHz; (CD3)2SO-d6 ; δ in ppm]: 0.52 (mt, 2H: CH2); 1.29 (quintet, J=7.5 Hz, 2H: CH2); 1.57 (s, 3H: CH3); 2.17 and 2.36 (2 mts, 1H each: hetero-CH2); 3.14 (t, J=7.5 Hz, 1H: CH2O); 4.19 (broad s, 1H: OH); 7.38 (mt, 2H: H 7 and H 8); 7.67 and 8.24 (2 broad s, 1H each: H of the imidazole); 7.60 and 7.87 (2 broad d, J=7.5 Hz, 1H each: H 6 and H9)).

reactant | (10-methyl-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-10-yl)butyric acid | 0.6 g | CC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)C(C(=O)O)CC | C18H17N3O3
reactant | oxalyl chloride | 0.19 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 0.38 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium tetraborohydride | 0.38 g | [BH4-].[BH4-].[BH4-].[BH4-].[Na+].[Na+].[Na+].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | methanol | 10 ml | CO | CH4O
product | 10-(4-hydroxybutyl)-10-methyl-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one | 70 mg | OCCCCC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)C | C18H19N3O2
